US06281356B1
3-(6-Methoxy-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)pyrrole-2,5-dione (55 mg, 58%) was prepared from methyl (6-methoxy-1methyl -1H-indol-3-yl)-glyoxylate (57mg, 0.23 mmol) and (1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)-acetamide (54 mg, 0.21 mmol).

reactant | methyl (6-methoxy-1methyl -1H-indol-3-yl)-glyoxylate | 0.23 mmol, 57mg | COC1=CC=C2C(=CN(C2=C1)C)C(C(=O)OC)=O | C13H13NO4
reactant | (1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)-acetamide | 0.21 mmol, 54 mg | CN1C=C(C2=CC=C(C=C12)N1CCCC1)CC(=O)N | C15H19N3O
product | 3-(6-Methoxy-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)pyrrole-2,5-dione | 55 mg, 58% | COC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)N1CCCC1)C)=O)=O | C27H26N4O3
